US09447046B2
Preparation 187a: N-methyl-4-(propan-2-yl)aniline
A mixture of 1-bromo-4-isopropylbenzene (1.0 g, 5.03 mmol), methylamine (25 mL, 50.0 mmol), CuI (1.15 g, 6.0 mmol), KOAc (1.24 g, 12.6 mmol) and DMF (30 mL) in a sealed tube under N2 was heated to 100° C. overnight. The mixture was cooled to r.t., diluted with water (100 mL), and extracted with EtOAc. The organic layer was dried (Na2SO4), concentrated, and purified by silica gel chromatography (PE:EtOAc=10:1) to give 254 mg (34%) of the title compound as a yellow oil. [M+H] Calc'd for C10H15N, 150. Found, 150.

reactant | 1-bromo-4-isopropylbenzene | 5.03 mmol, 1.0 g | BrC1=CC=C(C=C1)C(C)C | C9H11Br
reactant | methylamine | 50.0 mmol, 25 mL | CN | CH5N
reactant | KOAc | 12.6 mmol, 1.24 g | CC(=O)[O-].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
catalyst | CuI | 6.0 mmol, 1.15 g | [Cu]I
product | N-methyl-4-(propan-2-yl)aniline | 254 mg, 34% | CNC1=CC=C(C=C1)C(C)C | C10H15N
